US07893093B2
To a solution of 3-cyclopropylmethylsulfonyl-2(R)-[2,2,-difluoro-1(S)-(4-fluorophenyl)-ethylamino]propionic acid (0.95 g), 1-aminocyclopropanecarbonitrile HCl salt (400 mg) in DMF (5 mL) at room temperature was added HATU (1.28 g), followed by diisopropylethylamine (1.68 g/2.26 mL). After being stirred at room temperature for 4 hours, the reaction mixture was concentrated under reduced pressure and then partitioned between ethyl acetate and brine. The combined organic extracts were dried over anhydrous MgSO4 and concentrated under reduced pressure, and the residue was purified by recrystallization from 2-propanol to yield N-(1-cyano-cyclopropyl)-3-cyclopropylmethanesulfonyl-2-[2,2-difluoro-1-(4-fluorophenyl)ethylamino]-propionamide as colorless crystals (250 mg).

reactant | 3-cyclopropylmethylsulfonyl-2(R)-[2,2,-difluoro-1(S)-(4-fluorophenyl)-ethylamino]propionic acid | 0.95 g | C1(CC1)CS(=O)(=O)C[C@@H](C(=O)O)N[C@H](C(F)F)C1=CC=C(C=C1)F | C15H18F3NO4S
reactant | 1-aminocyclopropanecarbonitrile HCl salt | 400 mg | Cl.NC1(CC1)C#N
reactant | HATU | 1.28 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2.26 mL, 1.68 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(1-cyano-cyclopropyl)-3-cyclopropylmethanesulfonyl-2-[2,2-difluoro-1-(4-fluorophenyl)ethylamino]-propionamide | 250 mg | C(#N)C1(CC1)NC(C(CS(=O)(=O)CC1CC1)NC(C(F)F)C1=CC=C(C=C1)F)=O | C19H22F3N3O3S
